US04162162
A solution of 50 g. (0.3785 mole) 1-indanone and 77.75 g. of 93% 4-diethylamino-2-methylbenzaldehyde in 150 ml. of ethanol was stirred and 94 ml. of a solution of warm (approx. 30° C.) 25% aqueous sodium hydroxide was added. This reaction mixture was heated to reflux for 45 minutes. A solid precipitate began appearing after 30 minutes. Next, the mixture was cooled to about 5° C. and the precipitate filtered and washed with petroleum ether. After air drying, the resulting solid was washed with water until the wash material was pH 7.0. The washed precipitate was recrystallized from 80% aqueous ethanol to yield 92.6 g. (80.1% yield) of 2-(4'-diethylamino-2'-methylbenzylidene)-1-indanone (m.p. 133.5°-134.5° C.), U.V. spectra and ε values are set forth in Table 3 below. The structure was confirmed by both infrared and nuclear magnetic resonance spectra.

reactant | 1-indanone | 0.3785 mole | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | 4-diethylamino-2-methylbenzaldehyde | C(C)N(C1=CC(=C(C=O)C=C1)C)CC | C12H17NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4'-diethylamino-2'-methylbenzylidene)-1-indanone | 80.1% yield | C(C)N(C1=CC(=C(C=C2C(C3=CC=CC=C3C2)=O)C=C1)C)CC | C21H23NO
